US06720316B2
tert-Butyl 6b-methyl-1,2,6b,9,10,10a-hexahydro[1,4]-oxazino[2,3,4-hi]pyrido[4,3-b]indole-8(7H)-carboxylate (0.0711 g, 0.215 mmol) was dissolved in CH2Cl2 (2 mL). Trifluoroacetic acid (0.50 mL, 0.46 mmol) was added and the reaction mixture was stirred in a sealed reaction vessel for 4 hours at room temperature. The reaction mixture was cooled in an ice bath and 1N aqueous NaOH (15 mL) was added and the resulting mixture was extracted with CH2Cl2 (2×25 mL) and 25:1 CH2Cl2:CH3OH (1×26 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated to yield a crude product (0.0464 g), which was purified by chromatography (SiO2 10 g, eluted with 90:10:1 CH2Cl2:CH3OH:concentrated aqueous NH4OH) to yield 6b-methyl-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole (0.0453 g) in 91% yield. 1H NMR (400 MHz, CD3OD) δ1.42 (s, 3 H), 1.78-1.87 (m, 1 H), 1.90-1.96 (m, 1 H), 2.68 (ddd, J=10.8, 9.5, 3.5 Hz, 1 H), 2.71 (d, J=13.3 Hz, 1H), 2.74 (d, J=13.3 Hz, 1 H), 2.81-2.94 (m, 3 H) 3.40 (ddd, J=11.0, 2.1, 2.1 Hz, 1 H), 4.37-4.47 (m,2H), 6.53 (dd, J=7.5, 1.7 Hz, 1 H), 6.59-6.65 (m, 2 H); 1.96 (m, 1 H MS (ESI+) for C14H18N2O m/z 231.1 (M+H)+.

reactant | tert-Butyl 6b-methyl-1,2,6b,9,10,10a-hexahydro[1,4]-oxazino[2,3,4-hi]pyrido[4,3-b]indole-8(7H)-carboxylate | 0.215 mmol, 0.0711 g | CC12C(N3C4=C(C=CC=C14)OCC3)CCN(C2)C(=O)OC(C)(C)C | C19H26N2O3
reactant | Trifluoroacetic acid | 0.46 mmol, 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 6b-methyl-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole | 0.0453 g, 91% yield | CC12C(N3C4=C(C=CC=C14)OCC3)CCNC2 | C14H18N2O
